US04005199
A. 4-Nitro-3-trifluoromethylbenzenethiol
A stirred solution of sodium sulfide monohydrate 65.4 g. (0.276 moles) in 1 liter of water is treated with 50 g. (0.222 moles) of 4-chloro-2-trifluoromethylnitrobenzene in 500 ml. of acetone over 11/2 hour. The reaction mixture is stirred for 141/2 hours and the resultant solution treated with 25 ml. of concentrated hydrochloric acid. An oil separates from the reaction mixture which is dissolved in 200 ml. of ether, washed with water and extracted with 2.5 N sodium hydroxide solution. The aqueous solution is washed with ether and acidified with 25 ml. of hydrochloric acid. The resulting oil is extracted with ether and the ether solution washed with water affording 47 g. of 4-nitro-3-trifluoromethylbenzenethiol which is used in the next step.

reactant | sodium sulfide monohydrate | 65.4 g | O.[S-2].[Na+].[Na+]
reactant | 4-chloro-2-trifluoromethylnitrobenzene | 0.222 moles | ClC1=CC(=C(C=C1)[N+](=O)[O-])C(F)(F)F | C7H3ClF3NO2
reactant | acetone | CC(=O)C | C3H6O
reactant | hydrochloric acid | Cl | ClH
solvent | water | 1 liter | O | H2O
product | 4-Nitro-3-trifluoromethylbenzenethiol | [N+](=O)([O-])C1=C(C=C(C=C1)S)C(F)(F)F | C7H4F3NO2S
